US05441563
To a stirred solution of 1-(hydroxymethyl)benzotriazole (44.8 parts) in 375 parts of methanol at room temperature was added 10.4 parts of hydroxylamine hydrochloride. The reaction mixture was stirred at room temperature for about five hours and then placed in a freezer for about six hours. The precipitated white solid was filtered, washed with cold water and dried in vacuo (in presence of phosphorus pentoxide). The dried product, m.p. 175°-7° C. (reported m.p. 173°-4° C.), 24 parts: was identified as N,N-bis (benzotriazol-1-yl methyl) hydroxylamine (54.2% yield) by 1H and 13C NMR spectral analysis.

reactant | 1-(hydroxymethyl)benzotriazole | OCN1N=NC2=C1C=CC=C2 | C7H7N3O
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | methanol | CO | CH4O
product | N,N-bis (benzotriazol-1-yl methyl) hydroxylamine | 54.2% yield | N1(N=NC2=C1C=CC=C2)CN(O)CN2N=NC1=C2C=CC=C1 | C14H13N7O
